US06756373B1
A mixture of 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide (prepared as in WO 98/49166) (1.7 g, 8.8 mmol), 2-bromoethyl methyl ether (0.85 mL, 8.85 mmol) and cesium carbonate (2.9 g, 9.0 mmol) in dimethylformamide (20 mL) was stirred at room temperature for 20 h. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate (125 mL) and brine (100 mL). The phases were separated, and the organic layer was dried (Na2SO4), and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel, using ethyl acetate:methanol (97:3) as eluant to afford 3-ethyl-1-(2-methoxyethyl)-4-nitro-pyrazole-5-carboxamide (831 mg, 39%).

reactant | 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide | 8.8 mmol, 1.7 g | C(C)C1=NNC(=C1[N+](=O)[O-])C(=O)N | C6H8N4O3
reactant | 2-bromoethyl methyl ether | 8.85 mmol, 0.85 mL | COCCBr | C3H7BrO
reactant | cesium carbonate | 9.0 mmol, 2.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-ethyl-1-(2-methoxyethyl)-4-nitro-pyrazole-5-carboxamide | 831 mg, 39% | C(C)C1=NN(C(=C1[N+](=O)[O-])C(=O)N)CCOC | C9H14N4O4
